US05470851
4-Diphenylmethyl-1-[2-(N-ethoxycarbonyl-N-methylamino)ethyl]piperazine
A mixture of 0.23 g of 2-(N-ethoxycarbonyl-N-methylamino)ethyl methanesulfonate (prepared as described in Preparation 34') and 0.26 g of 4-diphenylmethylpiperazine was stirred at 80° C. for 5 hours. At the end of this time, the mixture was purified by column chromatography through silica gel, using a 20:1 by volume mixture of ethyl acetate and ethanol as the eluent, to give 0.25 g (yield 64%) of the title compound as an oil.

reactant | 2-(N-ethoxycarbonyl-N-methylamino)ethyl methanesulfonate | 0.23 g | CS(=O)(=O)OCCN(C)C(=O)OCC | C7H15NO5S
reactant | 4-diphenylmethylpiperazine | 0.26 g | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
product | 4-Diphenylmethyl-1-[2-(N-ethoxycarbonyl-N-methylamino)ethyl]piperazine | 0.25 g, yield 64% | C1(=CC=CC=C1)C(N1CCN(CC1)CCN(C)C(=O)OCC)C1=CC=CC=C1 | C23H31N3O2
